US05837704
d) 5,11-Dihydro-1-ethyl-5-methyl-2-(3-pyrrolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
Tetrabutylammonium fluoride in THF (1M, 0.36 mL) was added to a solution of 5,11-dihydro-1-ethyl-5-methyl-2-[1-(triisopropylsilyl)pyrrol-3-yl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.17 g) in dry THF (10 mL). After stirring the resulting mixture for 1 h, it was diluted with ether, washed with water, dried (anhyd Na2SO4), filtered, and evaporated. The residue was chromatographed over silica gel (ethyl acetate/hexanes, 1:1), and then crystallized from chloroform/hexanes to give 0.083 g of the title compound, mp 173°-174° C.

reactant | Tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5,11-dihydro-1-ethyl-5-methyl-2-[1-(triisopropylsilyl)pyrrol-3-yl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.17 g | C(C)N1C(C=CC=2N(C(C3=C(NC21)N=CC=C3)=O)C)C3=CN(C=C3)[Si](C(C)C)(C(C)C)C(C)C | C27H39N5OSi
solvent | THF | 1M, 0.36 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5,11-Dihydro-1-ethyl-5-methyl-2-(3-pyrrolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.083 g | C(C)N1C(C=CC=2N(C(C3=C(NC21)N=CC=C3)=O)C)C3=CNC=C3 | C18H19N5O
